US09388198B2
A.2.2.1. Synthesis of 1-(6-chloropyridin-3-yl)cyclohexanecarbonitrile
To a mixture of 2-(6-chloropyridin-3-yl)acetonitrile (26.2 mmol) and 1,5-dibromopentane (26.2 mmol) in THF/DMSO (1:1, 300 mL) was added NaH (60% in mineral oil, 55.1 mmol) portionwise at 0° C. over 45 min. The mixture was allowed to warm to RT and stirred for 1 h 45 min. The reaction mixture was poured into water and extracted with DCM. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. The residue was purified by means of CC (10-80% EtOAc/Hept) to provide a colorless solid.

reactant | 2-(6-chloropyridin-3-yl)acetonitrile | 26.2 mmol | ClC1=CC=C(C=N1)CC#N | C7H5ClN2
reactant | 1,5-dibromopentane | 26.2 mmol | BrCCCCCBr | C5H10Br2
reactant | NaH | 55.1 mmol | [H-].[Na+]
reactant | water | O | H2O
solvent | THF DMSO | 300 mL | C1CCOC1.CS(=O)C
product | 1-(6-chloropyridin-3-yl)cyclohexanecarbonitrile | ClC1=CC=C(C=N1)C1(CCCCC1)C#N | C12H13ClN2
